US07273875B2
6-Trifluromethanesulfonyl-8-(3 cyanophenyl)-1,7-naphthyridine—Compound A
To a solution of 6-amino-8-(3-cyanophenyl)-1,7-naphthyridine (4.058 g) in dimethylform-amide (DMF) (22 ml) under argon at 0° C. is added trifluoromethanesulfonic acid (11 ml). The mixture is stirred at 0° C. for 10 minutes and then sodium nitrite (2.26 g) is added slowly. The cooling bath is then removed and the mixture stirred at room temperature for 3 hours. The resulting mixture is diluted with ethyl acetate and washed with water, 2 M NaOH and water again. The organic layer is dried over sodium sulfate, then concentrated in vacuo and purified by column chromatography, eluting with 10:0.5 toluene:acetone to yield the title compound. M.p. 102-104° C. MS (m/e)=380.1

reactant | 6-amino-8-(3-cyanophenyl)-1,7-naphthyridine | 4.058 g | NC=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N | C15H10N4
reactant | trifluoromethanesulfonic acid | 11 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium nitrite | 2.26 g | N(=O)[O-].[Na+]
solvent | dimethylform-amide | 22 ml | CN(C=O)C | C3H7NO
product | 6-Trifluromethanesulfonyl-8-(3 cyanophenyl)-1,7-naphthyridine | FC(S(=O)(=O)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N)(F)F | C16H8F3N3O2S
